US07915443B2
5-[(3-hydroxyphenyl)ethynyl]-N-{[2-(methylamino)-2-oxoethyl] (oxo)phenyl-λ6-sulfanylidene}nicotinamide
In a manner similar to that described for Example 471, (S)-Ethyl[N-({5-[(3-hydroxyphenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate (50 mg, 0.11 mmol) and methylamine (2.0 M solution in MeOH, 0.5 mL, 1.0 mmol) were reacted to give the title compound as colorless oil (43 mg, 90%).

reactant | (S)-Ethyl[N-({5-[(3-hydroxyphenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate | 0.11 mmol, 50 mg | C(C)[C@@H](C(=O)[O-])S(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)O)C1=CC=CC=C1
reactant | methylamine | 1.0 mmol, 2.0 M, 0.5 mL | CN | CH5N
product | 5-[(3-hydroxyphenyl)ethynyl]-N-{[2-(methylamino)-2-oxoethyl] (oxo)phenyl-λ6-sulfanylidene}nicotinamide | 43 mg, 90% | OC=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N=S(C2=CC=CC=C2)(=O)CC(=O)NC)C1 | C23H19N3O4S
